US06258824B1
41A. Benzo[b]thiophen-2-yl-[4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol
Following the same procedure as described in example 1E, 6-bromo-4-(3-chloro-phenyl)-2-methoxy-quinoline (273 mg, 0.784 mmol) and benzo[b]thiophen-2-yl-(3-methyl-3H-imidazol-4-yl)-methanone (247 mg, 1.01 mmol) generated the title compound of 41A (248 mg, 62% yield).

reactant | 6-bromo-4-(3-chloro-phenyl)-2-methoxy-quinoline | 0.784 mmol, 273 mg | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)Cl | C16H11BrClNO
reactant | benzo[b]thiophen-2-yl-(3-methyl-3H-imidazol-4-yl)-methanone | 1.01 mmol, 247 mg | S1C2=C(C=C1C(=O)C=1N(C=NC1)C)C=CC=C2 | C13H10N2OS
product | Benzo[b]thiophen-2-yl-[4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 248 mg, 62% yield | S1C2=C(C=C1C(O)(C=1N(C=NC1)C)C=1C=C3C(=CC(=NC3=CC1)OC)C1=CC(=CC=C1)Cl)C=CC=C2 | C29H22ClN3O2S
